US08859571B2
A mixture of 4-chloro-5,7-bis(methyloxy)quinazoline (75 mg, 0.334 mmol, prepared according to J. Med. Chem. (2006) 49 6465) and 3-amino-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide (95 mg, 0.334 mmol) in i-PrOH (2 mL) was subjected to microwave irradiation (100° C., 1 bar) for 30 minutes before being cooled to room temperature. The solid was collected by filtration, washed with i-PrOH, and dried under vacuum to give 3-{[5,7-bis(methyloxy)-4-quinazolinyl]amino}-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide hydrochloride (130 mg, 76%) as a yellow soid.

reactant | 4-chloro-5,7-bis(methyloxy)quinazoline | 0.334 mmol, 75 mg | ClC1=NC=NC2=CC(=CC(=C12)OC)OC | C10H9ClN2O2
reactant | 3-amino-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide | 0.334 mmol, 95 mg | NC=1C=C(C=CC1OCC(F)(F)F)S(=O)(=O)NC | C9H11F3N2O3S
solvent | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 3-{[5,7-bis(methyloxy)-4-quinazolinyl]amino}-N-methyl-4-[(2,2,2-trifluoroethyl)oxy]benzenesulfonamide hydrochloride | 130 mg, 76% | Cl.COC1=C2C(=NC=NC2=CC(=C1)OC)NC=1C=C(C=CC1OCC(F)(F)F)S(=O)(=O)NC | InChI=1S/C19H19F3N4O5S.ClH/c1-23-32(27,28)12-4-5-15(31-9-19(20,21)22)13(8-12)26-18-17-14(24-10-25-18)6-11(29-2)7-16(17)30-3;/h4-8,10,23H,9H2,1-3H3,(H,24,25,26);1H
